US04728653
The following compound was prepared similarly to Preparation 56, using 1-(3-methyl-4-nitrophenyl)-2,4-dimethylimidazole and 5% palladised charcoal/H2 as the starting materials and ethanol as the solvent. The crude solid melted at 78°-82°. Recrystallisation from toluene gave 1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole, m.p. 118°-120° C.

reactant | 1-(3-methyl-4-nitrophenyl)-2,4-dimethylimidazole | CC=1C=C(C=CC1[N+](=O)[O-])N1C(=NC(=C1)C)C | C12H13N3O2
reactant | charcoal H2 | C.[H][H]
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole | NC1=C(C=C(C=C1)N1C(=NC(=C1)C)C)C | C12H15N3
